US07205318B2
Methyl 4-amino-benzoate (3.58 g, 23.70 mmol) and N-Boc glycine (4.15 g, 23.70 mmol) were stirred in DMF (50 mL) at room temperature. BOP (11.52 g, 26.07 mmol) was added followed by the addition of DIEA (6.18 mL, 35.55 mmol). The resulting mixture was stirred at rt for 1.5 h. It was quenched with sat'd NaHCO3 and EtOAc. The organic layer was washed with H2O, brine (3×), dried (MgSO4), and concentrated to dryness to give 4-(2-tert-butoxycarbonylamino-acetylamino)-benzoic acid methyl ester (7.18 g, yield: 98%). 1H NMR (CDCl3) δ 9.16 (s, br, 1H), 7.96 (d, J=8.4 Hz, 2H), 7.65 (d, J=8.4 Hz, 2H), 3.98 (s, 2H), 3.89 (s, 3H), 1.45 (s, 9H) ppm.

reactant | Methyl 4-amino-benzoate | 23.70 mmol, 3.58 g | NC1=CC=C(C(=O)OC)C=C1 | C8H9NO2
reactant | N-Boc glycine | 23.70 mmol, 4.15 g | C(=O)(OC(C)(C)C)NCC(=O)O | C7H13NO4
reactant | BOP | 26.07 mmol, 11.52 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | DIEA | 35.55 mmol, 6.18 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | 4-(2-tert-butoxycarbonylamino-acetylamino)-benzoic acid methyl ester | 7.18 g, yield: 98% | COC(C1=CC=C(C=C1)NC(CNC(=O)OC(C)(C)C)=O)=O | C15H20N2O5
